US06495541B1
In a manner similar to that described for Example ZZZ, 2-(4-fluoro-phenyl)-3-formyl-1H-indole4-carboxylic acid methyl ester (145 mg, 0.49 mmol) was condensed with hydrazine (45 mg, 1.41 mmol) to give 2-(4-fluoro-phenyl)-1,5-dihydro-[1,2]diazepino[4,5,6-cd]indol-6-one, 120 mg (88%) as a bright yellow solid: m.p. 340-341° C. (dec); 1H NMR (300 MHz, d6-DMSO) 7.22 (app t, J=7.8 Hz 1H), 7.43 (m, 3H), 7.54 (m, 2H), 7.73 (m, 2H), 10.33 (s, 1H), 12.23 (br s, 1H). MS (electrospray, MH+) 280. Anal. (C16H10FN3O) C, H, N.

reactant | 2-(4-fluoro-phenyl)-3-formyl-1H-indole4-carboxylic acid methyl ester | 0.49 mmol, 145 mg | COC(=O)C=1C=2C(=C(NC2C=CC1)C1=CC=C(C=C1)F)C=O | C17H12FNO3
reactant | hydrazine | 1.41 mmol, 45 mg | NN | H4N2
product | 2-(4-fluoro-phenyl)-1,5-dihydro-[1,2]diazepino[4,5,6-cd]indol-6-one | FC1=CC=C(C=C1)C=1NC=2C=CC=C3C2C1C=NNC3=O | C16H10FN3O
